US04276364
Preparation of 1-[4-(2-formylhydrazino)phenyl]-3,3-dibutylthiourea (NA-15)
Di-n-butylamine (0.13 g, 0.001 mole) and 4-(2-formylhydrazino)phenyl isothiocyanate (0.19 g, 0.001 mole) were reacted according to the procedure described for NA-11 in Example 3. Yield 0.10 g (31 percent), m.p. 139°-141° C.

reactant | Di-n-butylamine | 0.001 mole, 0.13 g | C(CCC)NCCCC | C8H19N
reactant | 4-(2-formylhydrazino)phenyl isothiocyanate | 0.001 mole, 0.19 g | C(=O)NNC1=CC=C(C=C1)N=C=S | C8H7N3OS
reactant | 1-[4-(2-formylhydrazino)phenyl]-3,3-dibenzylthiourea | C(=O)NNC1=CC=C(C=C1)NC(=S)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C22H22N4OS
product | 1-[4-(2-formylhydrazino)phenyl]-3,3-dibutylthiourea | C(=O)NNC1=CC=C(C=C1)NC(=S)N(CCCC)CCCC | C16H26N4OS
